US06492416B1
50 mg of 3-bromo-2-{4-(methylthio)phenyl}-1-oxa-spiro[4,4]non-2-en-4-one was stirred with 292 mg of OXONE at room temperature overnight in 5 ml ethanol, 5 ml THF, and 5 ml water. Then the insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The resulting aqueous layer was extracted with dichloromethane and the organic layer was concentrated in vacuo. The resulting residue was purified to column chromatography (hexane/ethylacetate) to afford 68 mg of 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,4]non-2-en-4-one as a solid. mp: 127-128° C. NMR: δ1.98 (m, 6H), 2.12 (m, 2H), 3.11 (s, 3H), 8.09 (d, J=8.7 Hz, 2H), 8.37 (d, J=8.7 Hz, 2H).

reactant | 3-bromo-2-{4-(methylthio)phenyl}-1-oxa-spiro[4,4]non-2-en-4-one | 50 mg | BrC1=C(OC2(C1=O)CCCC2)C2=CC=C(C=C2)SC | C15H15BrO2S
reactant | OXONE | 292 mg | OOS(=O)[O-].[K+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | water | 5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-bromo-2-{4-(methylsulfonyl)phenyl}-1-oxa-spiro[4,4]non-2-en-4-one | 68 mg | BrC1=C(OC2(C1=O)CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C15H15BrO4S
